US04604490
In a 1000-ml stainless steel magnetic stirrer type autoclave in which the atmosphere had been replaced with nitrogen, 162 g of 1-butene and 198 g of dicyclopentadiene were placed, and the reaction was carried out at 170° C. for 25 hours. After the completion of the reaction, unreacted 1-butene was collected by a trap in a bath including dry ice and methanol. Afterward, the resultant reaction liquid was subjected to a vacuum distillation in order to recover 52 g of unreacted dicyclopentadiene and to obtain 97 g of 5-ethyl-2-norbornene and 8 g of a fraction of a boiling point of 87° C./1 mmHg. In this case, the amount of recovered 1-butene was 112 g. Therefore, in this Diels-Alder reaction, the conversion of 1-butene was 31% and the selectivity of 5-ethyl-2-norbornene to reacted 1-butene was 89%.

reactant | 1-butene | 162 g | C=CCC | C4H8
reactant | dicyclopentadiene | 198 g | C1C=CC2C1C3CC2C=C3 | C10H12
product | 5-ethyl-2-norbornene | 97 g | C(C)C1C2C=CC(C1)C2 | C9H14
